US09370522B2
Step 4. 4,5-di(amino)-2-hydroxybenzoic acid
Under an H2(g) atmosphere, a suspension of 4-amino-2-hydroxy-5-nitrobenzoic acid (200 mg, 1.01 mmol, 1.00 equiv) and Pd/C (anhydrous) (0.1 g) in HOAc (15 mL) in a 50-mL round-bottom flask was allowed to react, with stirring, overnight at room temperature. The resulting solution was directly taken on to the next step without further purification.

reactant | 4-amino-2-hydroxy-5-nitrobenzoic acid | 1.01 mmol, 200 mg, 1.00 equiv | NC1=CC(=C(C(=O)O)C=C1[N+](=O)[O-])O | C7H6N2O5
solvent | HOAc | 15 mL | CC(=O)O | C2H4O2
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | 4,5-di(amino)-2-hydroxybenzoic acid | NC1=CC(=C(C(=O)O)C=C1N)O | C7H8N2O3
